US08486946B2
Step 1: Preparation of ethyl 4-oxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydrocinnoline-3-carboxylate
Ethyl 4-oxo-1,4-dihydrocinnoline-3-carboxylate (427 mg, 1.96 mmol) was dissolved in degassed N,N-dimethylformamide (5 mL) and treated with 1-[4-bromomethyl)phenyl]-1H-pyrazole (510 mg, 2.15 mmol, 1.1 equiv) and potassium carbonate (325 mg, 2.35 mmol, 1.2 equiv). The mixture was stirred under nitrogen at ambient temperature for 18 hours and then partitioned between water and ethyl acetate. The combined organic extracts were washed with water and brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gradient gel chromatography (100:0 to 90:10; chloroform:methanol), providing the titled compound.

reactant | Ethyl 4-oxo-1,4-dihydrocinnoline-3-carboxylate | 1.96 mmol, 427 mg | O=C1C(=NNC2=CC=CC=C12)C(=O)OCC | C11H10N2O3
reactant | 1H-pyrazole | 2.15 mmol, 510 mg, 1.1 equiv | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 2.35 mmol, 325 mg, 1.2 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 4-oxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydrocinnoline-3-carboxylate | O=C1C(=NN(C2=CC=CC=C12)CC1=CC=C(C=C1)N1N=CC=C1)C(=O)OCC | C21H18N4O3
